US09421213B2
4-Fluorobenzene-1,2-diamine (2 g, 15.86 mmol) was dissolved in THF (49.4 ml) and 1,1′-Carbonyldiimidazole (2.83 g, 17.44 mmol) was added at RT. The reaction mixture was stirred overnight at RT. To this was added concentrated ammonia solution (1.5 ml) and the mixture stirred for 30 minutes and then diluted with water (100 ml). The resultant solid was collected by filtration, washed with water, followed by Et2O and then dried in vacuo to afford 5-fluoro-1H-benzo[d]imidazol-2(3H)-one (1.250 g, 52%); 1H NMR (400 MHz, DMSO-d6) 6.66-6.79 (2H, m), 6.81-6.94 (1H, m), 10.64 (1H, s), 10.76 (1H, s); m/z: (ES+) MH+, 151.19. b) A solution of 5-fluoro-1H-benzo[d]imidazol-2(3H)-one (1.25 g, 8.22 mmol) in phosphorus oxychloride (25.2 ml, 270.34 mmol) was heated for 18 hours at 100° C. The reaction mixture was cooled to RT and excess of POCl3 was evaporated in vacuo. The residue was neutralized with saturated NaHCO3 solution (10 ml) and extracted with EtOAc (3×20 ml). The organic phase was washed with brine and then dried over MgSO4, filtered and concentrated under reduced pressure to afford 2-chloro-6-fluoro-1H-benzo[d]imidazole (1.146 g, 82%); 1H NMR (400 MHz, DMSO-d6) 7.09 (1H, ddd), 7.36 (1H, dd), 7.53 (1H, dd); m/z: (ES+) MH+, 171.34. c) 2-Chloro-6-fluoro-1H-benzo[d]imidazole (1.146 g, 6.72 mmol) was charged to high pressure autoclave PV10832 (Parr 160 ml) with methylamine 40% EtOH solution (50 ml, 6.72 mmol) and sealed on its trolley and the resulting solution heated to 160° C. in high pressure blast cell 60 for 16 hours. The pressure in the autoclave reached 13 bar. The reaction mixture was evaporated and the residue dissolved in MeOH and added to an SCX column. The desired product was eluted from the column using 7M NH3/MeOH. Fractions containing product were evaporated and the residue was purified by flash chromatography on silica, eluting with a gradient of 0 to 10% MeOH in DCM. Pure fractions were evaporated to afford 6-fluoro-N-methyl-1H-benzo[d]imidazol-2-amine (0.707 g, 64%); 1H NMR (400 MHz, DMSO-d6) 2.27 (3H, d), 6.38-6.44 (2H, m), 6.67 (1H, dd), 6.79-6.84 (1H, m); m/z: (ES+) MH+, 166.31.

reactant | 2-Chloro-6-fluoro-1H-benzo[d]imidazole | 6.72 mmol, 1.146 g | ClC1=NC2=C(N1)C=C(C=C2)F | C7H4ClFN2
reactant | methylamine | 6.72 mmol, 50 ml | CN | CH5N
product | 6-fluoro-N-methyl-1H-benzo[d]imidazol-2-amine | 0.707 g, 64% | FC=1C=CC2=C(NC(=N2)NC)C1 | C8H8FN3
